US05929094
Step C: N-(2-bromo-6-hydroxy-4-nitrophenyl)acetamide
To a slurry of 1.26 g of N-(2-bromo-6-methoxy-4-nitrophenyl)acetamide and 60 mL of methylene chloride at 0° C., 8.7 mL of 1.0 M BBr3 in methylene chloride was added dropwise. The mixture was slowly warmed to rt. and allowed to react overnight. MeOH was added next morning and allowed to stir for 10 min. TLC(50/50 hexane/EtOAc) showed reaction complete, different conditions(90/10 DCM/EtOAc) showed there to be two products. Added satd. NaHCO3, extracted with EtOAc(2×), dried organic over MgSO4 and conc. in vacuo. Recovered 1.16 g of product, NMR(CDCl3 400 MHz) showed the two products to be desired and 4-bromo-2-methyl-6-nitro-benzooxazole. The product was carried on with no fiuther purification.

reactant | N-(2-bromo-6-methoxy-4-nitrophenyl)acetamide | 1.26 g | BrC1=C(C(=CC(=C1)[N+](=O)[O-])OC)NC(C)=O | C9H9BrN2O4
reactant | BBr3 | 1.0 M, 8.7 mL | B(Br)(Br)Br | BBr3
reactant | MeOH | CO | CH4O
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | DCM EtOAc | C(Cl)Cl.CCOC(=O)C
product | N-(2-bromo-6-hydroxy-4-nitrophenyl)acetamide | BrC1=C(C(=CC(=C1)[N+](=O)[O-])O)NC(C)=O | C8H7BrN2O4
